US05677464
2-[(1R,2S)-2-(2,4-Difluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone (10 g) was dissolved in 180 ml of dimethylformamide, to which 5.7 g of 1H-1,2,4-triazole and 23.2 g of potassium carbonate were added. The mixture was heated at 90° C. for 5 hours. The reaction solution was concentrated under reduced pressure to ca. 100 ml and diluted with a mixture of 400 ml of ethyl acetate and 200 ml of diisopropyl ether. The mixture was washed with 100 ml of water, 1N-hydrochloric acid (100 ml×2) and 100 ml of an aqueous solution of sodium chloride successively. The organic layer was dried over magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel chromatography (silica gel: 70 g, eluent; hexane:ethyl acetate=3:4 to ethyl acetate). The desired fraction was concentrated and the residue was recrystallized from a mixture of 10 ml of ethyl acetate and 80 ml of diisopropyl ether to give 7.3 g of 2-[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone (yield: 80%) as a colorless powdery crystals.

reactant | 2-[(1R,2S)-2-(2,4-Difluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 10 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1N=CN(C1=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F)(COS(=O)(=O)C)O | C22H21F6N3O6S
reactant | 1H-1,2,4-triazole | 5.7 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 23.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | 2-[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 7.3 g, yield: 80% | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1N=CN(C1=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F)(CN1N=CN=C1)O | C23H20F6N6O3
